US06677371B1
Trans-6-acetylamino-3,4-dihydro-2,2-dimethyl-4-(2-phenylethoxy)-2H-1-benzopyran-3-ol
To a solution of 6-acetylamino-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran (0.50 g, 2.1 mmol) and 2-phenethyl alcohol (0.50 mL, 4.2 mol) in acetonitrile (2.5 mL), a catalytic amount of concentrated sulfuric acid was added at the room temperature and stirred at the room temperature for 5 hours. Thereto, ethyl acetate was added, and the formed organic phase was washed with water, an aqueous saturated sodium hydrogencarbonate solution and an aqueous saturated sodium chloride solution, and dried over anhydrous sodium sulfate. After the solvent was distilled off and the residue was purified by silica gel column chromatography (chloroform: ethyl acetate=1:1), the obtained pink amorphous substance was recrystallized from hexane-ethyl acetate, to obtain the intended substance as pink crystals (yield; 40%).

reactant | 6-acetylamino-3,4-epoxy-3,4-dihydro-2,2-dimethyl-2H-1-benzopyran | 2.1 mmol, 0.50 g | C(C)(=O)NC=1C=CC2=C(C3C(C(O2)(C)C)O3)C1 | C13H15NO3
reactant | 2-phenethyl alcohol | 4.2 mol, 0.50 mL | C1=CC=C(C=C1)CCO | C8H10O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | Trans-6-acetylamino-3,4-dihydro-2,2-dimethyl-4-(2-phenylethoxy)-2H-1-benzopyran-3-ol | yield; 40% | C(C)(=O)NC=1C=CC2=C([C@H]([C@@H](C(O2)(C)C)O)OCCC2=CC=CC=C2)C1 | C21H25NO4
